US08183380B2
rac-1-Isopropyl-3-[2-(7-methoxy-4-methyl-indan-1-ylamino)-quinolin-6-yl]-urea
Rac-N2-(7-methoxy-4-methyl-indan-1-yl)-quinoline-2,6-diamine was obtained from (7-methoxy-4-methyl-indan-1-yl)-(6-nitro-quinolin-2-yl)-amine according to the general procedure described in step B of example 2; MS: m/e=320.6 (M+H+). Step E: The title compound was prepared in accordance with the general method described in example 3 from rac-N2-(7-methoxy-4-methyl-indan-1-yl)-quinoline-2,6-diamine and isopropyl isocyanate; MS: m/e=405.6 (M+H+).

reactant | rac-N2-(7-methoxy-4-methyl-indan-1-yl)-quinoline-2,6-diamine | COC=1C=CC(=C2CCC(C12)NC1=NC2=CC=C(C=C2C=C1)N)C | C20H21N3O
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | rac-1-Isopropyl-3-[2-(7-methoxy-4-methyl-indan-1-ylamino)-quinolin-6-yl]-urea | C(C)(C)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCC2=C(C=CC(=C12)OC)C | C24H28N4O2
